US04267176
To a solution of ethyl 2-(6-formamidopyridin-2-yl)acetate (4.4 g.) in ethanol (44 ml.) was added 2 N sodium hydroxide solution [solvent:water (1 part)+ethanol (4 parts] (15.9 ml.) at 18° to 20° C. over 30 minutes, and then the solution was stirred at room temperature for one hour. After 1 N hydrochloric acid (31.7 ml.) was added to the solution, the solution was concentrated under reduced pressure. The residue was extracted with hot ethyl acetate (500 ml.) and the extract was concentrated under reduced pressure. The residue was washed with ethyl acetate to give 2-(6-formamidopyridin-2-yl)acetic acid (2.5 g.), mp 125° to 126° C. (dec.).

reactant | ethyl 2-(6-formamidopyridin-2-yl)acetate | 4.4 g | C(=O)NC1=CC=CC(=N1)CC(=O)OCC | C10H12N2O3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N, 31.7 ml | Cl | ClH
solvent | ethanol | 44 ml | C(C)O | C2H6O
product | 2-(6-formamidopyridin-2-yl)acetic acid | 2.5 g | C(=O)NC1=CC=CC(=N1)CC(=O)O | C8H8N2O3
